US07253165B2
Synthesis of (R)-1-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine in dimethylformamide and ethanol and 4,5,6,7-tetrahydro-thieno[3,2-c]pyridine in ethanol essentially as described above in Example 102. Purity by LC/MS=100%, [M+H]+=408.

reactant | (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine | O1[C@H](C1)COC=1C=C(C=CC1)C1=NOC2=NC=CC=C21 | C15H12N2O3
reactant | 4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | S1C=CC=2CNCCC21 | C7H9NS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol | S1C=CC=2CN(CCC21)C[C@H](COC2=CC(=CC=C2)C2=NOC1=NC=CC=C12)O | C22H21N3O3S
